US05244889
Cyclooctanone (25 g, 198 mmol) is dissolved in methylene chloride (500 mL) and the solution is cooled to 0° C. Triethyloxonium tetrafluoroborate (121.6 g, 640 mmol) is added. Ethyl diazoacetate (41.61 g, 365 mmol) is then added dropwise over 25 minutes, and the reaction is stirred at 0° C. for 4 hours. The reaction is quenched by pouring into a solution of sodium bicarbonate (160 g) in water (1.6 L) and stirring overnight. The reaction mixture is then extracted several times with methylene chloride, the combined organic layers are dried (Na2SO4), and the solvent is evaporated. The product is purified by vacuum distillation (0.2-1.0 mm Hg) and the fraction boiling between 100°-125° C. is collected to give 2-ethoxycarbonyl-cyclononanone.

reactant | Cyclooctanone | 198 mmol, 25 g | C1(CCCCCCC1)=O | C8H14O
reactant | Triethyloxonium tetrafluoroborate | 640 mmol, 121.6 g | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | Ethyl diazoacetate | 365 mmol, 41.61 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | 2-ethoxycarbonyl-cyclononanone | C(C)OC(=O)C1C(CCCCCCC1)=O | C12H20O3
